US07151105B2
Step 3: 3-(Difluoromethyl)-5-(dimethylamino)-1-methyl-1H-pyrazole-4-carbaldehyde
To mixture of 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbaldehyde (34 g, 0.17 mol) and HMPA (50 mL) was added a 40% aqueous solution of dimethylamine (66.3 mL). The reaction mixture was stirred for at 50° C. for 12 h, diluted with water (1 L), and the product was extracted with dichloromethane (2×100 mL). The combined organic layers were dried with sodium sulfate and evaporated. The liquid residue was purified chromatographically on silica gel using dichloromethane/ethyl acetate as eluent (1:3, Rf=0.25) to give 17.81 g (51.6%) of the title product. Satisfactory C,H,N-analysis was obtained. 1H NMR (400 MHz, DMSO-d6): δ 2.93 (s, 6H), 3.72 (s, 6H), 7.07 (t, J=56 Hz, 1H), 9.94 (s, 1H). GC-MS calcd for C8H11F2N3O: 203.09, found (M+): 203 m/z.

reactant | 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbaldehyde | 0.17 mol, 34 g | ClC1=C(C(=NN1C)C(F)F)C=O | C6H5ClF2N2O
reactant | HMPA | 50 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | dimethylamine | 66.3 mL | CNC | C2H7N
solvent | water | 1 L | O | H2O
product | 3-(Difluoromethyl)-5-(dimethylamino)-1-methyl-1H-pyrazole-4-carbaldehyde | 17.81 g, 51.6% | FC(C1=NN(C(=C1C=O)N(C)C)C)F | C8H11F2N3O
